US09056881B2
3-Bromopropyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH2—CH2CH2Br, (4.710 g; 11.1 mmol) is slowly added dropwise to cooled (0° C.) N-methylimidazole (0.907 g; 11.0 mmol) (exothermic) in a 50 ml glass flask. It The colourless, more highly viscous and slightly cloudy reaction mixture is stirred at 0° C. for 1 h and at room temperature for 3 h and purified in vacuo (10−3 mbar) at room temperature. 1-(3-Bromopropyl)-3-methylimidazolium bis(pentafluoroethyl)phosphinate, [BrCH2CH2CH2MIM][(C2F5)2P(O)O], (5.286 g; 10.5 mmol) can be isolated as colourless, highly viscous and slightly cloudy liquid in a yield of 95% and a purity of 90%.

reactant | 3-Bromopropyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OCCCBr)(=O)C(C(F)(F)F)(F)F | C7H6BrF10O2P
reactant | (C2F5)2P(O)OCH2—CH2CH2Br | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OCCCBr | C7H6BrF10O2P
reactant | N-methylimidazole | 11.0 mmol, 0.907 g | CN1C=NC=C1 | C4H6N2
product | 1-(3-Bromopropyl)-3-methylimidazolium bis(pentafluoroethyl)phosphinate | yield of 95% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.BrCCC[N+]1=CN(C=C1)C | InChI=1S/C7H12BrN2.C4HF10O2P/c1-9-5-6-10(7-9)4-2-3-8;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h5-7H,2-4H2,1H3;(H,15,16)/q+1;/p-1
